US08293913B2
8-((3aS,6aS)-hexahydropyrrolo[3,4-b]pyrrol-1(2H)-yl)-3-(phenylsulfonyl)-quinoline
A solution of (3aS,6aS)-ethyl 1-(3-(phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate (60 mg, 0.133 mmol) and trimethylsilyl-iodide (160 mg, 0.797 mmol) in chloroform (1 mL) was stirred at reflux for 1.5 h. Methanol (4 mg) was added and the solution was partitioned between ethyl acetate and aqueous NaOH (1M). The organic extract was dried (MgSO4), filtered and concentrated to yield 11 mg (22%) of the title compound as a pale yellow oil.

reactant | (3aS,6aS)-ethyl 1-(3-(phenylsulfonyl)quinolin-8-yl)hexahydropyrrolo[3,4-b]pyrrole-5(1H)-carboxylate | 0.133 mmol, 60 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1[C@H]2[C@@H](CC1)CN(C2)C(=O)OCC | C24H25N3O4S
reactant | trimethylsilyl-iodide | 0.797 mmol, 160 mg | C[Si](C)(C)I | C3H9ISi
reactant | Methanol | 4 mg | CO | CH4O
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-((3aS,6aS)-hexahydropyrrolo[3,4-b]pyrrol-1(2H)-yl)-3-(phenylsulfonyl)-quinoline | 11 mg, 22% | N1([C@H]2[C@@H](CC1)CNC2)C=2C=CC=C1C=C(C=NC21)S(=O)(=O)C2=CC=CC=C2 | C21H21N3O2S
